US07405300B2
2-Chloro-1-(3-formylphenyl)-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 to afford 1-(3-formylphenyl)-2-(piperazin-2-yl)-1H-indole-3-carboxaldehyde (59% yield) as a cream solid. ESI/MS 334 (M+H); RT 2.29 min.

reactant | 2-Chloro-1-(3-formylphenyl)-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC(=CC=C1)C=O | C16H10ClNO2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-(3-formylphenyl)-2-(piperazin-2-yl)-1H-indole-3-carboxaldehyde | 59% yield | C(=O)C=1C=C(C=CC1)N1C(=C(C2=CC=CC=C12)C=O)C1NCCNC1 | C20H19N3O2
